US07579353B2
5-Nonyl-2-(tributylstannanyl)pyrimidine
Tri-n-butylstannane (ALDRICH, 0.40 ml) was added dropwise, with vigorous stirring, to a solution of lithium diisopropylamide (ALDRICH, 0.75 ml) in dry THF (3 ml) at 0° C. After stirring for 20 minutes a solution of 2-chloro-5-nonylpyrimidine (ALFA, 0.200 g) in THF (3 ml) was added dropwise at −78° C., under argon atmosphere. After 1 hour at −78° C. the cooling bath was removed and the reaction mixture warmed up to 0° C. The mixture was stirring for 3 hours at 0° C., then quenched with saturated NH4Cl (10 ml), diluted, extracted with ethyl acetate (3×10 ml), dried over MgSO4, concentrated under vacuum and purified by column chromatography on silica gel, eluting with hexane to afford 0.5 g of the title compound as a yellow oil. Although the material obtained contained a small amount of 5-nonyl-pyrimidine, it was used for the next step without further purification.

reactant | Tri-n-butylstannane | 0.40 ml | C(CCC)[SnH](CCCC)CCCC
reactant | lithium diisopropylamide | 0.75 ml | C(C)(C)[N-]C(C)C.[Li+]
reactant | 2-chloro-5-nonylpyrimidine | 0.200 g | ClC1=NC=C(C=N1)CCCCCCCCC | C13H21ClN2
solvent | THF | 3 ml | C1CCOC1 | C4H8O
solvent | THF | 3 ml | C1CCOC1 | C4H8O
product | 5-Nonyl-2-(tributylstannanyl)pyrimidine | 0.5 g | C(CCCCCCCC)C=1C=NC(=NC1)[Sn](CCCC)(CCCC)CCCC | InChI=1S/C13H21N2.3C4H9.Sn/c1-2-3-4-5-6-7-8-9-13-10-14-12-15-11-13;3*1-3-4-2;/h10-11H,2-9H2,1H3;3*1,3-4H2,2H3;
